Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor / Aspirin
 
Attending: ___.
 
Chief Complaint:
agitation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with dementia, HTN and aortic insufficiency sent to the 
ED from senior housing with increasing agitation and paranoia.  
History obtained from daughter and son-in-law at the bedside.
.
Patient currently lives independently in senior housing with 
daily ___.  Patient has had a mild increase in agitation over 
the past three weeks.  She was started on abilify 1mg daily 2 
weeks ago with some improvement.  However today she accused her 
___ friend of stealing from her then slapped her across 
the face.  Per senior housing staff, patient threatened to kill 
the woman.  Staff did not feel patient safe to continue to live 
independently therefore sent to the ED.  Family reports 
patient's mental capacities at baseline.  
.
Patient denies any recent fevers, chills, nausea, vomiting or 
diarrhea.  No headaches, neck stiffness or visual changes.  No 
recent falls, ambulates with a cane.  Denies any cp or sob.  No 
dysuria or urinary symptoms.  Last BM two days ago.  Family 
reports occasional difficulty swallowing with coughing.  
.
Clinic note from psychiatry in ___, sent by RN at ___ 
___ as patient being "difficult".  Diagnosed with possible 
adjustment disorder with anxiety.
.
ED: 98.2 69 184/47 18 97%; + UA therefore given 1gm CTX.  
Olanzapine 5mg.  CXR pending.  Case management aware and will be 
attempting to place.
.
ROS: as per HPI, 10 pt ROS otherwise negative

 
Past Medical History:
1. constipation
2. h/o hemorrhoids (s/p hemorrhoidectomy)
3. previous benign colon polyp and rectal angiodysplasia
4. HTN
5. h/o Glaucoma
6. Severe aortic insufficiency
 
Social History:
___
Family History:
Unable to provide
 
Physical Exam:
VS: 98  66P  192/56  18  100%RA
Appearance: aaox2 (person, place), NAD, not agitated, calm
Eyes: eomi, perrl, anicteric
ENT: OP clear s lesions, mmd, no JVD, neck supple
Cv: +s1, ___ diastolic murmur at RUSB, no peripheral edema, 
2+ dp/pt bilaterally
Pulm: coarse bs bilaterally
Abd: soft, nt, distended, +bs
Msk: ___ strength throughout - difficulty following commands to 
comply with exam, no joint swelling, no cyanosis or clubbing
Neuro: cn ___ grossly intact, sensation grossly intact, 2+ 
patellar reflexes, downgoing toes, no pronator drift, normal 
finger-to-nose
Skin: no rashes
Psych: calm, pleasant
Heme: no cervical ___
.
.
VS: afebrile  170/62  p68  R16  97RA
GEN: NAD.
HEENT: MMM.
RESP: CTA B.
CV: RRR.
Ext: No CEE.
Neuro: A+O x self, "hospital". Occasional periods of 
suspiciousness/paranoia, but no episodes of agitation. No 
episodes of combativeness.
 
Pertinent Results:
___ pa/lat CXR IMPRESSION: Coarse bibasilar opacities may 
reflect aspiration or infection.

___ 08:05PM BLOOD WBC-6.8 RBC-4.53 Hgb-13.6 Hct-37.8 MCV-84 
MCH-30.0 MCHC-35.9* RDW-13.7 Plt ___
___ 06:15AM BLOOD WBC-7.1 RBC-4.40 Hgb-12.7 Hct-38.7 MCV-88 
MCH-28.9 MCHC-32.8 RDW-13.9 Plt ___
___ 08:05PM BLOOD Glucose-225* UreaN-30* Creat-1.1 Na-142 
K-3.6 Cl-102 HCO3-32 AnGap-12
___ 06:15AM BLOOD Glucose-131* UreaN-19 Creat-0.9 Na-144 
K-3.5 Cl-107 HCO3-28 AnGap-13
___ 08:05PM BLOOD ALT-15 AST-17 LD(LDH)-166 CK(CPK)-46 
AlkPhos-46 TotBili-0.2
___ 08:05PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:15AM BLOOD Calcium-9.1 Phos-3.5 Mg-1.8
___ 08:05PM BLOOD VitB12-306
___ 08:05PM BLOOD TSH-1.5
___ 09:00PM URINE Color-Straw Appear-Clear Sp ___
___ 09:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-MOD
___ 09:00PM URINE RBC-<1 WBC-11* Bacteri-FEW Yeast-NONE 
Epi-0

___ 9:01 pm URINE     Site: NOT SPECIFIED

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PROTEUS MIRABILIS.    10,000-100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ BLOOD CULTURE Blood Culture, Routine-FINAL 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
 
Brief Hospital Course:
___ yo F with dementia and HTN admitted with increasing paranoia 
and combative behavior.  She appears to have a history of 
gradual cognitive decline over years consistent with a senile 
dementia (AD vs Vascular vs mixed).  She has a history of 
"paranoia" x many years per her family but that has not 
previously inhibited her ability to live a normal, interactive 
life.  Over the preceding 3 weeks, she has become more paranoid 
and aggressive towards her home health aide and friends at her 
senior housing facility.  On admission, she was afebrile and 
hemodynamically stable.  Her CXR was suggestive of a possible 
PNA and her U/A similarly suggested a possible UTI (culture grew 
pan-sensitive p.mirabilis).  She was treated empirically with 
antibiotics.  Psychiatry was consulted and agreed with 
management, and also agreed that an underlying 
delirium/encephalopathy was likely but the exact cause was not 
clear.  Infection was possible, as was possible adverse drug 
event (she had recently been started on an atypical 
antipsychotic (Abilify) used more commonly in younger patients). 
 She was intermittently cooperative with staff, and refused 
head-CT, though her neurologic status was not suggestive of a 
focal/structural process.  B12, TSH were normal.  Social Work, 
Physical and Occupational Therapy were consulted. Pt was 
subsequently discharged to home with 24 hour family supervision.
.
HTN, benign:  
Pt was taken off of dyazide at admission, as pt appeared 
hypovolemic with mild ___ on presentation. Her renal function 
normalized, but she subsequently became hypertensive.  Her 
amlodipine was increased from 2.5 mg to 5 mg, with modest 
improvement in her blood pressure.  She should follow up closely 
with her PCP for further BP management, and to ensure remains 
euvolemic. 

FULL CODE per discussion with dtr and son
Emergency contact: ___ dtr ___, 
___ (son) ___

 
Medications on Admission:
simvastatin 10mg qhs
metoprolol 25mg bid
norvasc 2.5mg qhs
triamterene-hctz ___ qam
abilify 1mg daily - started 2 weeks ago
colace 200mg qam
senna 2 pills qpm
lantaprost 0.005% 1gtt each eye qpm
 
Discharge Medications:
1. simvastatin 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
3. docusate sodium 100 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  
5. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
6. amlodipine 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
7. Dyazide 37.5-25 mg Capsule Sig: One (1) Capsule PO once a 
day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
1) Acute multifactorial encephalopathy and delirium
2) Dementia
3) Hypertension
4) Constipation
5) Hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___ was admitted to the hospital with confusion.  
She was treated for a possible pneumonia and a urinary tract 
infection.  Her mental status returned to baseline and she was 
seen by psychiatry.  She continued to have periods of paranoia, 
however, it appears that a superimposed encephalopathy/delirium 
has resolved.

She should no longer be taking abilify.

 
Followup Instructions:
___